US08383821B2
4-((3-(1H-Tetrazol-5-yl)-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine.
tert-Butyl 4-((3-(1H-tetrazol-5-yl)-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (30.0 mg, 0.058 mmol) was dissolved in a trifluoroacetic acid/methylene chloride mixture (1:1, 1 mL) and stirred under nitrogen for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. Concentration afforded 11.0 mg (45%). LC/MS (HPLC method 3): tR=1.89 min, 418.88 (MH)+.

reactant | tert-Butyl 4-((3-(1H-tetrazol-5-yl)-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.058 mmol, 30.0 mg | N1N=NN=C1C=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F | C26H30F3N5O3
solvent | trifluoroacetic acid methylene chloride | 1 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | 4-((3-(1H-Tetrazol-5-yl)-5-(trifluoromethyl)benzyloxy)methyl)-4-phenylpiperidine | N1N=NN=C1C=1C=C(COCC2(CCNCC2)C2=CC=CC=C2)C=C(C1)C(F)(F)F | C21H22F3N5O
